US04168269
9,10-Dihydro-9-methyl-4-phenethyl-4H-thieno[3,4-b][1,5]benzodiazepine
To a slurry of 6.0 g. of 4,9-dihydro-9-methyl-4-phenylacetyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dried tetrahydrofuran, cooled in an ice bath, is added 125 ml. of 1 M borane in tetrahydrofuran, dropwise over 10 minutes. The mixture is stirred at room temperature for one hour, refluxed for 6 hours and then stirred at room temperature for 16 hours. The reaction is decomposed by the addition of 50 ml. of 6 N hydrochloric acid and then 75 ml. of 5 N sodium hydroxide is added. Most of the solvent is evaporated, the residue is extracted with methylene chloride and the extract is evaporated to an oil. This oil is dissolved in hot hexane, filtered through diatomaceous earth and evaporated to an oil which crystallizes giving the desired product as colorless crystals, mp. 53°-56° C.

reactant | 4,9-dihydro-9-methyl-4-phenylacetyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1C(C=2C(N(C3=C1C=CC=C3)C(CC3=CC=CC=C3)=O)=CSC2)=O | C20H16N2O2S
reactant | borane | 1 M | B | BH3
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-9-methyl-4-phenethyl-4H-thieno[3,4-b][1,5]benzodiazepine | CN1CC=2C(N(C3=C1C=CC=C3)CCC3=CC=CC=C3)=CSC2 | C20H20N2S
